US05352655
In 30 ml of dichloromethane containing 2.8 g of pyridine, 4.0 g of 2-bromo-2-(2-fluorophenyl)acetyl chloride were added dropwise to 2.5 g of N-[1-methyl-1-(3-chlorophenyl)ethyl]-2-methyl-2-propenylamine at 10° to 15° C. After stirring at room temperature for 1 hour, the solution was poured into water, and extraction was then made with dichloromethane. The resultant extract was washed with a saturated aqueous sodium bicarbonate solution, and dried over anhydrous sodium sulfate. After concentration, column chromatography was done to obtain 2.0 g of the desired N-[1-methyl-1-(3-chlorophenyl)ethyl]-N-(2-methyl-2-propenyl)-2-bromo-2-(2-fluorophenyl)acetamide.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2-bromo-2-(2-fluorophenyl)acetyl chloride | 4.0 g | BrC(C(=O)Cl)C1=C(C=CC=C1)F | C8H5BrClFO
reactant | N-[1-methyl-1-(3-chlorophenyl)ethyl]-2-methyl-2-propenylamine | 2.5 g | CC(C)(C1=CC(=CC=C1)Cl)NCC(=C)C | C13H18ClN
reactant | water | O | H2O
solvent | dichloromethane | 30 ml, 2.8 g | ClCCl | CH2Cl2
product | N-[1-methyl-1-(3-chlorophenyl)ethyl]-N-(2-methyl-2-propenyl)-2-bromo-2-(2-fluorophenyl)acetamide | 2.0 g | CC(C)(C1=CC(=CC=C1)Cl)N(C(C(C1=C(C=CC=C1)F)Br)=O)CC(=C)C | C21H22BrClFNO
